US07553836B2
Step A. Preparation of 4-methoxy-3-(2-(pyrrolidin-1-yl)ethoxy)benzenamine
A stirred DMF suspension (5 mL) of 2-methoxy-5-nitrophenol (0.5 g, 2.96 mmol), 1-(2-chloroethyl)pyrrolidine hydrochloride (0.75 g (4.43 mmol) and K2CO3 (1.02 g, 7.4 mmol) was heated at 80° C. for 2 hr. After cooling to RT, the reaction was diluted with 20 mL of H2O and extracted with EtOAc (3×20 mL). The combined EtOAc layers were washed brine and dried over MgSO4. After concentration under vacuum, the resulting residue was chromatographed on silica gel. Gradient elution CH2Cl2 to 10% MeOH/CH2Cl2 eluted N-(2-(2-methoxy-5-nitrophenoxy)ethyl)pyrrolidine (507 mg) as a light orange solid. Subsequent conversion of the aryl nitro substituent to the title aryl amine was accomplished in 87% yield following the procedure described in step C of Example 6. MS (ESI) 237 (M+H)+.

reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
reactant | 2-methoxy-5-nitrophenol | 2.96 mmol, 0.5 g | COC1=C(C=C(C=C1)[N+](=O)[O-])O | C7H7NO4
reactant | 1-(2-chloroethyl)pyrrolidine hydrochloride | Cl.ClCCN1CCCC1
reactant | K2CO3 | 7.4 mmol, 1.02 g | C(=O)([O-])[O-].[K+].[K+]
solvent | H2O | 20 mL | O | H2O
product | 4-methoxy-3-(2-(pyrrolidin-1-yl)ethoxy)benzenamine | 87% yield | COC1=C(C=C(C=C1)N)OCCN1CCCC1 | C13H20N2O2
